** sch_path: /foss/designs/layout_chipathon26/top_int.sch
.subckt top_int voutn VSS VDD3V3 1ua Vcm Vb1V3 Vb0V94 voutp sw0 swm1 swm2 swm4 swm8 swm16 CLK IB VINP VINN VCM VG
*.PININFO voutn:O VSS:B VDD3V3:B 1ua:B Vcm:B Vb1V3:B Vb0V94:B voutp:O sw0:B swm1:B swm2:B swm4:B swm8:B swm16:B CLK:I IB:I VINP:I
*+ VINN:I VCM:I VG:I
x1 outp outn VSS VDD3V3 inp inn 1ua Vb1V3 Vb0V94 Vcm folded_cascode_v3
C5 inn vn cap_mim_2f0fF c_width=11e-6 c_length=11e-6 m=16
C2 inp vp cap_mim_2f0fF c_width=11e-6 c_length=11e-6 m=16
x4 VDD3V3 VSS inp outn sw0 sw0b switch
x6 VDD3V3 VSS inp net1 swm16 swm16b switch
x13 VDD3V3 VSS inp net2 swm4 swm4b switch
x14 VDD3V3 VSS inp net3 swm2 swm2b switch
x15 VDD3V3 VSS inp net4 swm1 swm1b switch
C11 outn net1 cap_mim_2f0fF c_width=11e-6 c_length=11e-6 m=16
C8 outn net2 cap_mim_2f0fF c_width=11e-6 c_length=11e-6 m=4
C10 outn net3 cap_mim_2f0fF c_width=11e-6 c_length=11e-6 m=2
C12 outn net4 cap_mim_2f0fF c_width=11e-6 c_length=11e-6
C3 outn net5 cap_mim_2f0fF c_width=11e-6 c_length=11e-6 m=8
x5 VDD3V3 VSS inp net5 swm8 swm8b switch
x10 VDD3V3 VSS swm16 swm16b inverter
x11 VDD3V3 VSS swm2 swm2b inverter
x12 VDD3V3 VSS sw0 sw0b inverter
x19 VDD3V3 VSS swm1 swm1b inverter
x20 VDD3V3 VSS swm4 swm4b inverter
x21 VDD3V3 VSS swm8 swm8b inverter
C1 VSS VSS cap_mim_2f0fF c_width=11e-6 c_length=11e-6
x2 VDD3V3 VSS inn outp sw0 sw0br switch
x3 VDD3V3 VSS inn net6 swm16 swm16br switch
x7 VDD3V3 VSS inn net7 swm4 swm4br switch
x8 VDD3V3 VSS inn net8 swm2 swm2br switch
x9 VDD3V3 VSS inn net9 swm1 swm1br switch
C4 outp net6 cap_mim_2f0fF c_width=11e-6 c_length=11e-6 m=16
C6 outp net7 cap_mim_2f0fF c_width=11e-6 c_length=11e-6 m=4
C7 outp net8 cap_mim_2f0fF c_width=11e-6 c_length=11e-6 m=2
C9 outp net9 cap_mim_2f0fF c_width=11e-6 c_length=11e-6
C13 outp net10 cap_mim_2f0fF c_width=11e-6 c_length=11e-6 m=8
x16 VDD3V3 VSS inn net10 swm8 swm8br switch
x17 VDD3V3 VSS swm16 swm16br inverter
x18 VDD3V3 VSS swm2 swm2br inverter
x22 VDD3V3 VSS sw0 sw0br inverter
x23 VDD3V3 VSS swm1 swm1br inverter
x24 VDD3V3 VSS swm4 swm4br inverter
x25 VDD3V3 VSS swm8 swm8br inverter
C14 VSS VSS cap_mim_2f0fF c_width=11e-6 c_length=11e-6
x26 VDD3V3 VSS outp voutp 1ua core_buffer
x27 VDD3V3 VSS outn voutn 1ua core_buffer
x30 VG VDD3V3 VINP VINN CLK vp vn VSS Vcm IB ina
.ends

* expanding   symbol:  /foss/designs/core_pga/folded_cascode/folded_cascode_v3.sym # of pins=10
** sym_path: /foss/designs/core_pga/folded_cascode/folded_cascode_v3.sym
** sch_path: /foss/designs/core_pga/folded_cascode/folded_cascode_v3.sch
.subckt folded_cascode_v3 outp outn VSS VDD3V3 inp inn 1ua Vb1V3 Vb0V94 Vcm
*.PININFO outp:O outn:O VSS:B VDD3V3:B inp:I inn:I 1ua:B Vb1V3:B Vb0V94:B Vcm:B
M1 net3 inp net1 VDD3V3 pfet_03v3 L=1u W=10u nf=1
M2 net2 inn net1 VDD3V3 pfet_03v3 L=1u W=10u nf=1
M6 outn Vb0V94 net3 VSS nfet_03v3 L=1u W=4u nf=4
M7 outp Vb0V94 net2 VSS nfet_03v3 L=1u W=4u nf=4
M8 outn Vb1V3 net4 VDD3V3 pfet_03v3 L=1u W=4u nf=4
M9 outp Vb1V3 net5 VDD3V3 pfet_03v3 L=1u W=4u nf=4
M3 net1 Vbtail VDD3V3 VDD3V3 pfet_03v3 L=1u W=32u nf=1
M4 net3 Vbsnk VSS VSS nfet_03v3 L=1u W=9u nf=4
M5 net2 Vbsnk VSS VSS nfet_03v3 L=1u W=9u nf=4
M10 net4 Vbfb VDD3V3 VDD3V3 pfet_03v3 L=1u W=4u nf=4
M11 net5 Vbfb VDD3V3 VDD3V3 pfet_03v3 L=1u W=4u nf=4
M20 net8 net8 VDD3V3 VDD3V3 pfet_03v3 L=1u W=3u nf=1
M21 net8 outp net6 VSS nfet_03v3 L=1u W=10u nf=1
M22 Vbfb Vcm net6 VSS nfet_03v3 L=1u W=10u nf=1
M23 net6 Ib VSS VSS nfet_03v3 L=1u W=8u nf=1
M24 Vbfb Vcm net7 VSS nfet_03v3 L=1u W=10u nf=1
M25 net9 outn net7 VSS nfet_03v3 L=1u W=10u nf=1
M26 net7 Ib VSS VSS nfet_03v3 L=1u W=8u nf=1
M27 Ib Ib VSS VSS nfet_03v3 L=1u W=8u nf=1
M12 1ua 1ua VSS VSS nfet_03v3 L=1u W=1u nf=1
M13 Vbtail 1ua VSS VSS nfet_03v3 L=1u W=3u nf=1
M14 Vbtail Vbtail VDD3V3 VDD3V3 pfet_03v3 L=1u W=6u nf=1
M15 Vbsnk Vbsnk VSS VSS nfet_03v3 L=1u W=4u nf=1
M16 Vbsnk Vbtail VDD3V3 VDD3V3 pfet_03v3 L=1u W=11u nf=1
M17 net9 net9 VDD3V3 VDD3V3 pfet_03v3 L=1u W=3u nf=1
M18 Vbfb Vbfb VDD3V3 VDD3V3 pfet_03v3 L=1u W=3u nf=1
M28 Ib Vbtail VDD3V3 VDD3V3 pfet_03v3 L=1u W=4.9u nf=1
.ends


* expanding   symbol:  /foss/designs/core_pga/switch/switch.sym # of pins=6
** sym_path: /foss/designs/core_pga/switch/switch.sym
** sch_path: /foss/designs/core_pga/switch/switch.sch
.subckt switch VDD3V3 VSS in out clk clkb
*.PININFO VSS:B VDD3V3:B clk:I clkb:I in:B out:B
M5 in clkb out VDD3V3 pfet_03v3 L=0.36u W=4.5u nf=1
M7 out clk in VSS nfet_03v3 L=0.36u W=1.3u nf=1
M1 VDD3V3 VDD3V3 VDD3V3 VDD3V3 pfet_03v3 L=0.36u W=4.5u nf=1 m=2
M2 VSS VSS VSS VSS nfet_03v3 L=0.36u W=1.3u nf=1 m=2
.ends


* expanding   symbol:  /foss/designs/core_pga/inverter/inverter.sym # of pins=4
** sym_path: /foss/designs/core_pga/inverter/inverter.sym
** sch_path: /foss/designs/core_pga/inverter/inverter.sch
.subckt inverter VDD3V3 VSS in out
*.PININFO VSS:B VDD3V3:B in:B out:B
M1 out in VDD3V3 VDD3V3 pfet_03v3 L=0.36u W=6u nf=1 m=2
M2 out in VSS VSS nfet_03v3 L=0.36u W=3u nf=1 m=2
M3 VSS VSS VSS VSS nfet_03v3 L=0.36u W=3u nf=1 m=2
M4 VDD3V3 VDD3V3 VDD3V3 VDD3V3 pfet_03v3 L=0.36u W=6u nf=1 m=2
.ends


* expanding   symbol:  /foss/designs/core_pga/buffer/core_buffer.sym # of pins=5
** sym_path: /foss/designs/core_pga/buffer/core_buffer.sym
** sch_path: /foss/designs/core_pga/buffer/core_buffer.sch
.subckt core_buffer VDD3V3 VSS in out Vb_i1u
*.PININFO out:O VSS:B VDD3V3:B in:I Vb_i1u:B
M42 net1 net1 VDD3V3 VDD3V3 pfet_03v3 L=1u W=1u nf=1 m=6
M44 net1 in net2 VSS nfet_03v3 L=1u W=1u nf=1 m=6
M46 net2 Vb_i1u VSS VSS nfet_03v3 L=1u W=1u nf=1 m=10
M1 out net1 VDD3V3 VDD3V3 pfet_03v3 L=1u W=1u nf=1 m=6
M2 out out net2 VSS nfet_03v3 L=1u W=1u nf=1 m=6
.ends


* expanding   symbol:  /foss/designs/core_ina/ina.sym # of pins=10
** sym_path: /foss/designs/core_ina/ina.sym
** sch_path: /foss/designs/core_ina/ina.sch
.subckt ina VG VDD3V3 VINP VINN CLK VOUTP VOUTN VSS VCM IB
*.PININFO CLK:I VINP:I VINN:I VDD3V3:I VSS:I VCM:I IB:I VG:I VOUTP:O VOUTN:O
x3 VDD3V3 CLK net1 net2 VSS ina_clockgen
MB1 IB IB VSS VSS nfet_03v3 L=2u W=3.2u nf=1
Mnbias_dummy_L VSS VSS VSS VSS nfet_03v3 L=2u W=3.2u nf=1
Mnbias_dummy_R VSS VSS VSS VSS nfet_03v3 L=2u W=3.2u nf=1
x1 VG VINP VDD3V3 net3 VINN net4 net1 net2 VCM IB VSS ina_ccia1
x2 VG net3 VDD3V3 VOUTP net4 VOUTN net1 net2 VCM IB VSS ina_ccia2
.ends


* expanding   symbol:  /foss/designs/core_ina/ina_clockgen.sym # of pins=5
** sym_path: /foss/designs/core_ina/ina_clockgen.sym
** sch_path: /foss/designs/core_ina/ina_clockgen.sch
.subckt ina_clockgen VDD3V3 CLKIN CLKA CLKB VSS
*.PININFO CLKIN:I VDD3V3:I VSS:I CLKA:O CLKB:O
x1 VDD3V3 net4 CLKIN net1 VSS ina_nand
x2 VDD3V3 net6 net3 net2 VSS ina_nand
x3 VDD3V3 CLKIN net2 VSS ina_inv
x4 VDD3V3 net4 net5 VSS ina_inv
x5 VDD3V3 net5 net3 VSS ina_inv
x6 VDD3V3 net3 CLKA VSS ina_inv
x7 VDD3V3 net6 net7 VSS ina_inv
x8 VDD3V3 net7 net1 VSS ina_inv
x9 VDD3V3 net1 CLKB VSS ina_inv
.ends


* expanding   symbol:  /foss/designs/core_ina/ina_ccia1.sym # of pins=11
** sym_path: /foss/designs/core_ina/ina_ccia1.sym
** sch_path: /foss/designs/core_ina/ina_ccia1.sch
.subckt ina_ccia1 VG VINP VDD3V3 VOUTP VINN VOUTN CLKA CLKB VCM VB VSS
*.PININFO VINP:I VINN:I VDD3V3:I VSS:I VCM:I VB:I VG:I VOUTP:O VOUTN:O CLKA:I CLKB:I
x2 VDD3V3 net5 net7 net6 VCM VB VSS ina_cmfb
x3 net2 net3 VDD3V3 VSS CLKB CLKA net1 net4 ina_chopper
x4 VOUTN net6 VDD3V3 VSS CLKB CLKA VOUTP net7 ina_chopper
CIN1 VINP net3 cap_mim_2f0fF c_width=20e-6 c_length=20e-6 m=5
CIN2 VINN net4 cap_mim_2f0fF c_width=20e-6 c_length=20e-6 m=5
CFB1 net3 VOUTP cap_mim_2f0fF c_width=10e-6 c_length=10e-6
CFB2 net4 VOUTN cap_mim_2f0fF c_width=10e-6 c_length=10e-6
x1 VDD3V3 net5 net1 net7 net6 net2 VSS ina_ota
COUT VOUTP VOUTN cap_mim_2f0fF c_width=10e-6 c_length=10e-6 m=5
x5 net3 VOUTP VG ina_pseudores
x6 net4 VOUTN VG ina_pseudores
.ends


* expanding   symbol:  /foss/designs/core_ina/ina_ccia2.sym # of pins=11
** sym_path: /foss/designs/core_ina/ina_ccia2.sym
** sch_path: /foss/designs/core_ina/ina_ccia2.sch
.subckt ina_ccia2 VG VINP VDD3V3 VOUTP VINN VOUTN CLKA CLKB VCM VB VSS
*.PININFO VINP:I VINN:I VDD3V3:I VSS:I VCM:I VB:I VG:I VOUTP:O VOUTN:O CLKA:I CLKB:I
x2 VDD3V3 net5 net7 net6 VCM VB VSS ina_cmfb
x3 net2 net3 VDD3V3 VSS CLKB CLKA net1 net4 ina_chopper
x4 VOUTN net6 VDD3V3 VSS CLKB CLKA VOUTP net7 ina_chopper
CIN3 VINP net3 cap_mim_2f0fF c_width=10e-6 c_length=10e-6 m=5
CIN4 VINN net4 cap_mim_2f0fF c_width=10e-6 c_length=10e-6 m=5
CFB1 net3 VOUTP cap_mim_2f0fF c_width=10e-6 c_length=10e-6
CFB2 net4 VOUTN cap_mim_2f0fF c_width=10e-6 c_length=10e-6
x1 VDD3V3 net5 net1 net7 net6 net2 VSS ina_ota
COUT VOUTP VOUTN cap_mim_2f0fF c_width=10e-6 c_length=10e-6 m=5
x6 net4 VOUTN VG ina_pseudores
x5 net3 VOUTP VG ina_pseudores
.ends


* expanding   symbol:  /foss/designs/core_ina/ina_nand.sym # of pins=5
** sym_path: /foss/designs/core_ina/ina_nand.sym
** sch_path: /foss/designs/core_ina/ina_nand.sch
.subckt ina_nand VDD3V3 Vout Vin1 Vin2 VSS
*.PININFO VDD3V3:I Vin1:I Vin2:I VSS:I Vout:O
MN1 Vout Vin1 VDD3V3 VDD3V3 pfet_03v3 L=0.28u W=2u nf=1
MN2 Vout Vin2 VDD3V3 VDD3V3 pfet_03v3 L=0.28u W=2u nf=1
MN3 Vout Vin1 net1 VSS nfet_03v3 L=0.28u W=2u nf=1
MN4 net1 Vin2 VSS VSS nfet_03v3 L=0.28u W=2u nf=1
.ends


* expanding   symbol:  /foss/designs/core_ina/ina_inv.sym # of pins=4
** sym_path: /foss/designs/core_ina/ina_inv.sym
** sch_path: /foss/designs/core_ina/ina_inv.sch
.subckt ina_inv VDD3V3 Vin Vout VSS
*.PININFO VDD3V3:I VSS:I Vin:I Vout:O
MI1 Vout Vin VDD3V3 VDD3V3 pfet_03v3 L=0.28u W=2u nf=1
MI2 Vout Vin VSS VSS nfet_03v3 L=0.28u W=1u nf=1
.ends


* expanding   symbol:  /foss/designs/core_ina/ina_cmfb.sym # of pins=7
** sym_path: /foss/designs/core_ina/ina_cmfb.sym
** sch_path: /foss/designs/core_ina/ina_cmfb.sch
.subckt ina_cmfb VDD3V3 VCMFB VIN2 VIN1 VCM VB VSS
*.PININFO VIN1:I VIN2:I VCMFB:O VCM:I VSS:I VB:I VDD3V3:I
MC1 VCMFB VCMFB VDD3V3 VDD3V3 pfet_03v3 L=2u W=8u nf=1
MC3 VCMFB VIN1 net1 VSS nfet_03v3 L=2u W=1.6u nf=1
MC4 net3 VCM net1 VSS nfet_03v3 L=2u W=1.6u nf=1
MC7 net1 VB VSS VSS nfet_03v3 L=2u W=3.2u nf=1
MC5 net3 VCM net2 VSS nfet_03v3 L=2u W=1.6u nf=1
MC6 VCMFB VIN2 net2 VSS nfet_03v3 L=2u W=1.6u nf=1
MC8 net2 VB VSS VSS nfet_03v3 L=2u W=3.2u nf=1
MC2 net3 net3 VDD3V3 VDD3V3 pfet_03v3 L=2u W=8u nf=1
Mndiff_dummy_L[1] VSS VSS VSS VSS nfet_03v3 L=2u W=1.6u nf=1
Mndiff_dummy_L[0] VSS VSS VSS VSS nfet_03v3 L=2u W=1.6u nf=1
Mndiff_dummy_R[1] VSS VSS VSS VSS nfet_03v3 L=2u W=1.6u nf=1
Mndiff_dummy_R[0] VSS VSS VSS VSS nfet_03v3 L=2u W=1.6u nf=1
Mpcmfb_dummy_L VDD3V3 VDD3V3 VDD3V3 VDD3V3 pfet_03v3 L=2u W=8u nf=1
Mpcfmb_dummy_R VDD3V3 VDD3V3 VDD3V3 VDD3V3 pfet_03v3 L=2u W=8u nf=1
Mntail_dummy_L VSS VSS VSS VSS nfet_03v3 L=2u W=3.2u nf=1
Mntail_dummy_R VSS VSS VSS VSS nfet_03v3 L=2u W=3.2u nf=1
.ends


* expanding   symbol:  /foss/designs/core_ina/ina_chopper.sym # of pins=8
** sym_path: /foss/designs/core_ina/ina_chopper.sym
** sch_path: /foss/designs/core_ina/ina_chopper.sch
.subckt ina_chopper VOUT2 VIN1 VDD3V3 VSS CLKB CLKA VOUT1 VIN2
*.PININFO VIN1:I VIN2:I CLKB:I VOUT2:O CLKA:I VOUT1:O VDD3V3:I VSS:I
MT2 VOUT1 CLKA VIN1 VSS nfet_03v3 L=0.28u W=2u nf=1
MT1 VOUT1 CLKB VIN1 VDD3V3 pfet_03v3 L=0.28u W=4u nf=1
MT4 VOUT2 CLKB VIN1 VSS nfet_03v3 L=0.28u W=2u nf=1
MT3 VOUT2 CLKA VIN1 VDD3V3 pfet_03v3 L=0.28u W=4u nf=1
MT6 VOUT2 CLKA VIN2 VSS nfet_03v3 L=0.28u W=2u nf=1
MT5 VOUT2 CLKB VIN2 VDD3V3 pfet_03v3 L=0.28u W=4u nf=1
MT8 VOUT1 CLKB VIN2 VSS nfet_03v3 L=0.28u W=2u nf=1
MT7 VOUT1 CLKA VIN2 VDD3V3 pfet_03v3 L=0.28u W=4u nf=1
MT2_dummy VOUT1 CLKB VOUT1 VSS nfet_03v3 L=0.28u W=1u nf=1
MT1_dummy VOUT1 CLKA VOUT1 VDD3V3 pfet_03v3 L=0.28u W=2u nf=1
MT4_dummy VOUT2 CLKA VOUT2 VSS nfet_03v3 L=0.28u W=1u nf=1
MT3_dummy VOUT2 CLKB VOUT2 VDD3V3 pfet_03v3 L=0.28u W=2u nf=1
MT5_dummy VOUT2 CLKA VOUT2 VDD3V3 pfet_03v3 L=0.28u W=2u nf=1
MT6_dummy VOUT2 CLKB VOUT2 VSS nfet_03v3 L=0.28u W=1u nf=1
MT7_dummy VOUT1 CLKB VOUT1 VDD3V3 pfet_03v3 L=0.28u W=2u nf=1
MT8_dummy VOUT1 CLKA VOUT1 VSS nfet_03v3 L=0.28u W=1u nf=1
.ends


* expanding   symbol:  /foss/designs/core_ina/ina_ota.sym # of pins=7
** sym_path: /foss/designs/core_ina/ina_ota.sym
** sch_path: /foss/designs/core_ina/ina_ota.sch
.subckt ina_ota VDD3V3 VTAIL VIN1 VOUT2 VOUT1 VIN2 VSS
*.PININFO VIN1:I VIN2:I VTAIL:I VSS:I VOUT1:O VDD3V3:I VOUT2:O
M4 net4 net4 VDD3V3 VDD3V3 pfet_03v3 L=6u W=0.65u nf=1
M1 net3 VTAIL VDD3V3 VDD3V3 pfet_03v3 L=2u W=8u nf=1
M7 net5 net5 VDD3V3 VDD3V3 pfet_03v3 L=6u W=0.65u nf=1
M2 net1 VIN1 net3 VDD3V3 pfet_03v3 L=0.28u W=15u nf=1 m=10
M3 net2 VIN2 net3 VDD3V3 pfet_03v3 L=0.28u W=15u nf=1 m=10
M10 net4 net1 VSS VSS nfet_03v3 L=6u W=1.8u nf=1
M11 net5 net2 VSS VSS nfet_03v3 L=6u W=1.8u nf=1
M8 net1 net1 VSS VSS nfet_03v3 L=6u W=1.8u nf=1
M9 net2 net2 VSS VSS nfet_03v3 L=6u W=1.8u nf=1
M5 VOUT1 net4 VDD3V3 VDD3V3 pfet_03v3 L=6u W=0.65u nf=1
M13 VOUT1 net2 VSS VSS nfet_03v3 L=6u W=1.8u nf=1
M12 VOUT2 net1 VSS VSS nfet_03v3 L=6u W=1.8u nf=1
M6 VOUT2 net5 VDD3V3 VDD3V3 pfet_03v3 L=6u W=0.65u nf=1
Mpota_dummy_L[1] VDD3V3 VDD3V3 VDD3V3 VDD3V3 pfet_03v3 L=6u W=0.65u nf=1
Mpota_dummy_L[0] VDD3V3 VDD3V3 VDD3V3 VDD3V3 pfet_03v3 L=6u W=0.65u nf=1
Mpdiff_dummy_L VDD3V3 VDD3V3 VDD3V3 VDD3V3 pfet_03v3 L=0.28u W=15u nf=1
Mpota_dummy_R[1] VDD3V3 VDD3V3 VDD3V3 VDD3V3 pfet_03v3 L=6u W=0.65u nf=1
Mpota_dummy_R[0] VDD3V3 VDD3V3 VDD3V3 VDD3V3 pfet_03v3 L=6u W=0.65u nf=1
Mpdiff_dummy_R VDD3V3 VDD3V3 VDD3V3 VDD3V3 pfet_03v3 L=0.28u W=15u nf=1
Mnota_dummy_L[1] VSS VSS VSS VSS nfet_03v3 L=6u W=1.8u nf=1
Mnota_dummy_L[0] VSS VSS VSS VSS nfet_03v3 L=6u W=1.8u nf=1
Mnota_dummy_R[1] VSS VSS VSS VSS nfet_03v3 L=6u W=1.8u nf=1
Mnota_dummy_R[0] VSS VSS VSS VSS nfet_03v3 L=6u W=1.8u nf=1
Mptail_dummy_L VDD3V3 VDD3V3 VDD3V3 VDD3V3 pfet_03v3 L=2u W=8u nf=1
Mptail_dummy_R VDD3V3 VDD3V3 VDD3V3 VDD3V3 pfet_03v3 L=2u W=8u nf=1
.ends


* expanding   symbol:  /foss/designs/core_ina/ina_pseudores.sym # of pins=3
** sym_path: /foss/designs/core_ina/ina_pseudores.sym
** sch_path: /foss/designs/core_ina/ina_pseudores.sch
.subckt ina_pseudores VA VB VG
*.PININFO VG:I VA:B VB:B
MR1 VA VG VG VG nfet_03v3 L=5u W=0.5u nf=1
MR2 net2 VG VG VG nfet_03v3 L=5u W=0.5u nf=1
MR3 net2 net1 net1 net1 nfet_03v3 L=12u W=0.5u nf=1
MR4 VB net1 net1 net1 nfet_03v3 L=12u W=0.5u nf=1
.ends

